US07932272B2
2,6-Diamino-N-(5-benzyl-thiophen-2-ylmethyl)-nicotinamide
To a solution of 2,6-diaminonicotinic acid described in Preparation Example A-15 (173 mg, 1.13 mmol) in dimethylsulfoxide (15 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (433 mg, 2.26 mmol), 1-hydroxybenzotriazole (346 mg, 2.26 mmol) and C-(5-benzyl-thiophen-2-yl)-methylamine described in Preparation Example 42 (230 mg, 1.13 mmol), and the solution was stirred at room temperature fro 16 hours 30 minutes. The reaction solution was poured into brine, the solution was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate and then concentrated. The obtained residue was subjected to NH silica gel column chromatography, eluted with solvent (ethyl acetate) and the title compound (114 mg, 0.34 mmol, 30%) was obtained.

reactant | 2,6-diaminonicotinic acid | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.26 mmol, 433 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 2.26 mmol, 346 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | C-(5-benzyl-thiophen-2-yl)-methylamine | C(C1=CC=CC=C1)C1=CC=C(S1)CN | C12H13NS
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2,6-Diamino-N-(5-benzyl-thiophen-2-ylmethyl)-nicotinamide | 0.34 mmol, 114 mg, 30% | NC1=C(C(=O)NCC=2SC(=CC2)CC2=CC=CC=C2)C=CC(=N1)N | C18H18N4OS
